US06498174B1
Intermediate 6: 2-[2-[4-trifluoromethylphenyl)-5-methyl-1,3-oxazol-4-yl]acetic acid methyl ester
A mixture of 3.62 g (19.1 mmol) of 4-trifluoromethylbenzamide and 4.0 g (19 mmol) of methyl 4-bromo-3-oxo-pentanoate in 15 mL of toluene and 10 mL of dioxane (with 2 mL of EtOH) was refluxed for 22 h. The solution was concentrated under reduced pressure. The residue was taken into EtOAc and washed with water, brine, and dried over MgSO4. The crude material was purified by silica gel chromatography (10%-40% EtOAc in hexanes) to yield 130 mg of a yellow solid: 1H NMR (CDCl3, 400 MHz) δ8.1 (d, 2H, J=8.3), 7.65 (d, 2H, J=8.4), 3.75 (s, 3H), 3.58 (s, 2H), 2.39 (s, 3H); low resolution MS (ES+) m/e 300.0 (MH+).

reactant | 4-trifluoromethylbenzamide | 19.1 mmol, 3.62 g | FC(C1=CC=C(C(=O)N)C=C1)(F)F | C8H6F3NO
reactant | methyl 4-bromo-3-oxo-pentanoate | 19 mmol, 4.0 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[2-[4-trifluoromethylphenyl)-5-methyl-1,3-oxazol-4-yl]acetic acid methyl ester | 130 mg | COC(CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)=O | C14H12F3NO3
